US06645968B2
N″-cyano-N-[3-(trifluoromethyl)phenyl]guanidine
3-Trifluoromethylaniline (10 g, 62.1 mmol) was dissolved in 6N HCl (10.35 mmol, 62.1 mmol) and 50 ml of water. Sodium dicyanamide (5.53 g, 62.1 mmol) was added and the mixture was stirred for 12 hours at ambient temperature. The mixture was then cooled to 0° C. and stirred for 1 hour resulting in the formation of a precipitate. Filtration provided 12.22 g of the desired product as a white solid.

reactant | 3-Trifluoromethylaniline | 62.1 mmol, 10 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | HCl | 10.35 mmol, 6N | Cl | ClH
reactant | Sodium dicyanamide | 62.1 mmol, 5.53 g | [N-](C#N)C#N.[Na+]
solvent | water | 50 ml | O | H2O
product | N″-cyano-N-[3-(trifluoromethyl)phenyl]guanidine | 12.22 g | C(#N)N=C(NC1=CC(=CC=C1)C(F)(F)F)N | C9H7F3N4
